US04581172
18 g of 6,7-dihydro-9,10-dimethoxy-2-mesitylamino-7-methyl-4H-pyrimido[6,1-a]isoquinolin-4-one are boiled under reflux in 1.5 l of acetone with 270 ml of methyl iodide in the presence of 90 g of potassium carbonate. The mixture is then filtered and the filtrate is evaporated. The residue is dissolved in chloroform and purified by chromatography on a silica gel column. There are obtained 9.4 g of pure 9,10-dimethoxy-3,7-dimethyl-2-mesitylimino-2,3,6,7-tetrahydro-4H-pyrimido[6,1-a]isoquinolin-4-one, m.p. 156°-157° C. The corresponding hydrochloride of the compound melts at 224° C. (decomposition).

reactant | 6,7-dihydro-9,10-dimethoxy-2-mesitylamino-7-methyl-4H-pyrimido[6,1-a]isoquinolin-4-one | 18 g | COC=1C=C2C(CN3C(C2=CC1OC)=CC(=NC3=O)NC3=C(C=C(C=C3C)C)C)C | C24H27N3O3
reactant | methyl iodide | 270 ml | CI | CH3I
reactant | potassium carbonate | 90 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1.5 l | CC(=O)C | C3H6O
product | 9,10-dimethoxy-3,7-dimethyl-2-mesitylimino-2,3,6,7-tetrahydro-4H-pyrimido[6,1-a]isoquinolin-4-one | 9.4 g | COC=1C=C2C(CN3C(C2=CC1OC)=CC(N(C3=O)C)=NC3=C(C=C(C=C3C)C)C)C | C25H29N3O3
